US07776888B2
14 g (51.1 mmol) of unpurified 2,3,4,4-tetrachloro-1,5-dimethyl-8-oxa-bicyclo[3.2.1]octa-2,6-diene and 17.36 g (102.2 mmol) of silver nitrate are dissolved in 500 ml of acetone/water 1:1 mixture and heated for 15 hours at a temperature of 65-70° C. until the reaction of the reactants is complete (thin-layer chromatography (TLC) monitoring (mobile phase hexane/ethyl acetate 4:1)). After the reaction mixture has cooled to ambient temperature, solid sodium hydrogen carbonate is then stirred into the mixture in portions in order to neutralise the nitric acid. The precipitated silver bromide is filtered off and most of the acetone is distilled off under reduced pressure. The aqueous phase that remains behind is extracted three times with ethyl acetate. The organic extract is washed with water, dried over sodium sulfate and concentrated by evaporation. The oily residue is purified by means of silica gel chromatography (eluant gradient: 3-50% ethyl acetate in hexane). 6.1 g (54%) of pure 3,4-dichloro-1,5-dimethyl-8-oxa-bicyclo[3.2.1]octa-3,6-dien-2-one are obtained in the form of a pale yellow solid.

reactant | 2,3,4,4-tetrachloro-1,5-dimethyl-8-oxa-bicyclo[3.2.1]octa-2,6-diene | 51.1 mmol, 14 g | ClC=1C2(C=CC(C(C1Cl)(Cl)Cl)(O2)C)C | C9H8Cl4O
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | acetone water | 500 ml | CC(=O)C.O
catalyst | silver nitrate | 102.2 mmol, 17.36 g | [N+](=O)([O-])[O-].[Ag+]
product | 3,4-dichloro-1,5-dimethyl-8-oxa-bicyclo[3.2.1]octa-3,6-dien-2-one | 6.1 g, 54% | ClC=1C(C2(C=CC(C1Cl)(O2)C)C)=O | C9H8Cl2O2
